US08114987B2
Preparation of 2-deoxy-L-ribose
0.5 kg (2.63 mol) of 1-t-butoxy-2-deoxy-L-ribose was dissolved in 2 liters of 1% acetic acid, and stirred at 40° C. for 5 hours. After completion of the reaction, the solvent was removed by concentration, and the residue was azeotropically distilled with toluene, thus obtaining 2-deoxy-L-ribose, which was then used for the preparation of L-anilide without any purification.

reactant | 1-t-butoxy-2-deoxy-L-ribose | 2.63 mol, 0.5 kg | C(C)(C)(C)OC(=O)C[C@@H](O)[C@@H](O)CO | C9H18O5
solvent | acetic acid | 2 liters | C(C)(=O)O | C2H4O2
product | 2-deoxy-L-ribose | O=CC[C@@H](O)[C@@H](O)CO | C5H10O4
